US08877780B2
A stirred mixture of 6-ethoxy-nicotinic acid (0.50 g, 3.00 mmol) and CDI (0.54 g, 3.30 mmol) in NAN-dimethylformamide (20 mL) was heated to 40° C. under nitrogen. After 1 h, 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione methane sulfonate (1.15 g, 3.00 mmol) was added and the mixture was heated at 40° C. for 1.5 h. The mixture was cooled to rt and water (40 mL) was added. The solvent was removed in vacuo and the crude product was purified by column chromatography (EtOAc/hexanes). The product fractions were combined, concentrated and the residue was triturated in Et2O (20 mL) for 18 h. The product was isolated by filtration and dried in vacuo to give N-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-6-ethoxy-nicotinamide as a white solid (1.11 g, 85% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 3.04 min (98.73%); mp: 243-245° C.; 1H NMR (DMSO-d6) δ 1.33 (t, J=7.1 Hz, 3H, CH3), 1.96-2.16 (m, 1H, CHH), 2.41-2.69 (m, 2H, CHH, CHH), 2.79-3.00 (m, 1H, CHH), 4.37 (q, J=7.1 Hz, 2H, CH2), 4.65 (d, J=5.9 Hz, 2H, CH2), 5.15 (dd, J=5.4, 12.7 Hz, 1H, CH), 6.88 (dd, J=0.7, 8.8 Hz, 1H, Ar), 7.77-7.94 (m, 3H, Ar), 8.16 (dd, J=2.6, 8.7 Hz, 1H, Ar), 8.71 (dd, J=0.8, 2.5 Hz, 1H, Ar), 9.21 (t, J=5.9 Hz, 1H, NH), 11.12 (s, 1H, NH); 13C NMR (DMSO-d6) δ 14.41, 21.99, 30.93, 42.51, 49.01, 61.84, 110.27, 121.99, 123.04, 123.55, 129.82, 131.62, 133.44, 138.18, 147.13, 147.48, 164.79, 165.00, 166.97, 167.12, 169.80, 172.72; LCMS: MH=437; Anal Calcd for C22H20N4O6+0.1H2O: C, 60.30; H, 4.65; N, 12.78. Found: C, 60.08; H, 4.62; N, 12.77.

reactant | 6-ethoxy-nicotinic acid | 3.00 mmol, 0.50 g | C(C)OC1=NC=C(C(=O)O)C=C1 | C8H9NO3
reactant | CDI | 3.30 mmol, 0.54 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione methane sulfonate | 3.00 mmol, 1.15 g | CS(=O)(=O)O.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
solvent | water | 40 mL | O | H2O
product | N-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-6-ethoxy-nicotinamide | 1.11 g, 85% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1=O)CNC(C1=CN=C(C=C1)OCC)=O)=O)=O | C22H20N4O6
